data/pmechdb/original/mc_train_fold0/raw/train.txt
[H:20][OH:21].CCC[CH:10]=[C:11](C1=C(C=CC(=C1)Br)O)[OH:12].C1CC([N+](=CC2=CC=C(C=C2)[N+](=O)[O-])C1)C3=NN=NN3.C(=O)(C(F)(F)F)[O-]>>[H:20][CH:10](CCC)[C:11](=[OH+:12])C1=C(C=CC(=C1)Br)O.[OH-:21].C1CC([N+](=CC2=CC=C(C=C2)[N+](=O)[O-])C1)C3=NN=NN3.C(=O)(C(F)(F)F)[O-] 10,11=10,20;20,21=21;12=11
C[C+:20]=O.C[C:13]1=[C:12]2C=CC=C[C:11]2=[CH:10]C=C1>>C[C+:13]1C=C[CH:10]([C:11]2=[C:12]1C=CC=C2)[C:20](=O)C 10,11=10,20;12,13=11,12
CC(C(=O)OCC1=CC=CC=C1)[NH:10]CC2=CC=CC=C2.C1=CC=C(C=C1)[CH2:20][Cl:21]>>CC(C(=O)OCC1=CC=CC=C1)[NH+:10](CC2=CC=CC=C2)[CH2:20]C3=CC=CC=C3.[Cl-:21] 10=20;20,21=21
[Li+:20].CC(C)C[CH2-:10]>>[Li:20][CH2:10]CC(C)C 10=20,
[Li:11][C:10]1(SCCCS1)[Si](C)(C)C(C)(C)C.COC1=CC=C(C=C1)COCC2[CH2:20][O:21]2.CC(C)C>>[Li+:11].CC(C)(C)[Si](C)(C)[C:10]1(SCCCS1)[CH2:20]C(COCC2=CC=C(C=C2)OC)[O-:21].CC(C)C 10,11=10,20;20,21=21
CC(C)(C)[Si](C)(C)OCCC1C(C=CC2C1N(CC2)C(=O)OC)O.C[C:20]([N:10](C)C)([O:21]C)OC>>C[C:20](=[N+:10](C)C)OC.CC(C)(C)[Si](C)(C)OCCC1C(C=CC2C1N(CC2)C(=O)OC)O.C[O-:21] 10=20;20,21=21
CCCCC[C:20](=[OH+:21])[O:10][CH2:11][CH:12]=[C:13](C)C(C)C>>CCCCC[C:20](=[O:10])[OH:21].CC(C)[C+:13](C)[CH:12]=[CH2:11] 10,11=10,20;20,21=21;12,13=11,12
[H:20][O:21]P(=O)(O)O.CC#[C-:10]>>[H:20][C:10]#CC.OP(=O)(O)[O-:21] 10=20;20,21=21
[H:20][N+:21](CC)(CC)CC.C1=CC2=C(C(=C([N:10]=C2C=C1)OP(=O)(Cl)Cl)[N+](=O)[O-])O.[Cl-]>>[H:20][N+:10]1=C2C=CC=CC2=C(C(=C1OP(=O)(Cl)Cl)[N+](=O)[O-])O.CC[N:21](CC)CC.[Cl-] 10=20;20,21=21
[Li:11][CH2:10]CCC.CCCO[C:20](=[O:21])C1=CC=CC=C1>>[Li+:11].CCC[CH2:10][C:20](C1=CC=CC=C1)([O-:21])OCCC 10,11=10,20;20,21=21
CC1(OC(C(O1)C([CH-:10][S+:20](C)[O:21]C(=O)C(F)(F)F)OCC2=CC=CC=C2)C(C[S+](C)[O-])OCC3=CC=CC=C3)C.C(=O)(C(F)(F)F)O>>CC1(OC(C(O1)C([CH:10]=[S+:20]C)OCC2=CC=CC=C2)C(C[S+](C)[O-])OCC3=CC=CC=C3)C.C(=O)(C(F)(F)F)[O-:21].C(=O)(C(F)(F)F)O 10=20;20,21=21
CN1C=C(C(=O)C2=C1N([C:22](=[O:23])[CH:21]=[C:20]2Cl)C)C(=O)OC.C1CC[NH:10]C1.CCN(CC)CC>>CN1C=C(C(=O)C2=C1N([C:22](=[CH:21][C:20]2([NH+:10]3CCCC3)Cl)[O-:23])C)C(=O)OC.CCN(CC)CC 10=20;22,23=23;20,21=21,22
[H:20][OH:21].CC1C(C2=C(O1)C(=CC=C2O[Si](C(C)C)(C(C)C)C(C)C)Br)(C)C(CC=C)[O:10][Ti](Cl)(Cl)Cl.C[Si](C)(C)Cl>>[H:20][O+:10](C(CC=C)C1(C(OC2=C1C(=CC=C2Br)O[Si](C(C)C)(C(C)C)C(C)C)C)C)[Ti](Cl)(Cl)Cl.[OH-:21].C[Si](C)(C)Cl 10=20;20,21=21
CCC1CC[C+:20](C1)C.[Br-:10]>>CCC1CC[C:20](C1)(C)[Br:10] 10=20,
[B-:13](CCC)(CCC)([CH2:12][C:11](=[CH2:10])C=C)[O+:21]=[CH:20]CC(C)C>>[B:13](CCC)(CCC)[O:21][CH:20](CC(C)C)[CH2:10][C:11](=[CH2:12])C=C 10,11=10,20;20,21=21;12,13=11,12
[H:20][N+:21]1=C(C2=CC=CC=C2CC1)CC.CC1=[N:10]CCC2=CC=CC=C12.[O-]P(=O)(Cl)Cl.[Cl-]>>[H:20][N+:10]1=C(C2=CC=CC=C2CC1)C.CCC1=[N:21]CCC2=CC=CC=C21.[O-]P(=O)(Cl)Cl.[Cl-] 10=20;20,21=21
[Li:10][O+:11]=C(CCC)CCC.[BH-](CC)(CC)CC.[AlH4-]>>[Li+:10].CCCC(=[O:11])CCC.[BH-](CC)(CC)CC.[AlH4-] 10,11=11
[CH3:1][N:2]([CH3:3])[P+:4]1([O:21][C:16]2=[C:15]([O:14]1)[CH:20]=[CH:19][CH:18]=[CH:17]2)[N:5]=[N:6][N-:7][C:8]3=[CH:9][CH:10]=[CH:11][CH:12]=[CH:13]3>>[CH3:1][N:2]([CH3:3])[P:4]12([N:5]=[N:6][N:7]1[C:8]3=[CH:9][CH:10]=[CH:11][CH:12]=[CH:13]3)[O:21][C:16]4=[C:15]([O:14]2)[CH:20]=[CH:19][CH:18]=[CH:17]4 7=4
[H:20][CH:21](CC(=O)C1=CC=CO1)[C:22](=[NH+:23]CC(=O)O)C2=CC=CC=C2.CC(=O)[O-:10].O>>[H:20][O:10]C(=O)C.C1=CC=C(C=C1)[C:22](=[CH:21]CC(=O)C2=CC=CO2)[NH:23]CC(=O)O.O 10=20;22,23=23;20,21=21,22
[H:20][O+:21](CC)C(C)CBr.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CC[O:21]C(C)CBr 10=20;20,21=21
CC(C)(CO)C[OH+:21][C:20]1(CC2CC(CC2C1)OC)[OH:10].CC1=CC=C(C=C1)S(=O)(=O)[O-].CC(=O)C.O>>CC(C)(CO)C[OH:21].COC1CC2C[C:20](=[OH+:10])CC2C1.CC1=CC=C(C=C1)S(=O)(=O)[O-].CC(=O)C.O 10=20;20,21=21
C[CH:20](C)[Br:21].C[C:11](=[CH:10]C(=O)OC)[O-:12]>>C[CH:20](C)[CH:10]([C:11](=[O:12])C)C(=O)OC.[Br-:21] 10,11=10,20;20,21=21;12=11
[CH:20](O)([OH:10])[Cl:21]>>[CH:20](=[OH+:10])O.[Cl-:21] 10=20;20,21=21
CC1=CC=C(C=C1)S(=O)(=O)[O:21][CH:20]2CCC[C:11]3([CH:10]2CCCC3)[O-:12].CC(C)(C)O.[K]>>CC1=CC=C(C=C1)S(=O)(=O)[O-:21].C1CC[C:11](=[O:12])CCC[CH:20]=[CH:10]C1.CC(C)(C)O.[K] 10,11=10,20;20,21=21;12=11
[H:20][O:21]C(=O)C.C1CN(CC[N:12]1[C:11]2=[CH:10]C3CC(C3)C2)C4=CC=C(C=C4)[N+](=O)[O-].[BH-](OC(=O)C)(OC(=O)C)OC(=O)C.O.[Na+]>>[H:20][CH:10]1C2CC(C2)C[C:11]1=[N+:12]3CCN(CC3)C4=CC=C(C=C4)[N+](=O)[O-].CC(=O)[O-:21].[BH-](OC(=O)C)(OC(=O)C)OC(=O)C.O.[Na+] 10,11=10,20;20,21=21;12=11
[H:20][C:21](C)(CC)C#N.[OH-:10]>>[H:20][OH:10].CC[C-:21](C)C#N 10=20;20,21=21
C[C:20]([OH+:21]C)([O:10]C)SC>>C[C:20](=[O+:10]C)SC.C[OH:21] 10=20;20,21=21
CCC1C=CC2C(C1[C:20](=[O:21])O2)CCCC#N.N[NH2:10]>>CCC1C=CC2C(C1[C:20](O2)([NH2+:10]N)[O-:21])CCCC#N 10=20;20,21=21
[Li-:10](C)[P+:11](C)(Cl)Cl>>[Li:10]C.C[P:11](Cl)Cl 10,11=11
[B-]([O+:21]1CC[N:10]([C:20]1(C)C)C)(F)(F)F>>[B-]([O:21]CC[N+:10](=[C:20](C)C)C)(F)(F)F 10=20;20,21=21
CC[O-:10].C[C:20](=[O:21])Cl>>CC[O:10][C:20](C)([O-:21])Cl 10=20;20,21=21
